US09353083B2
60 mg of 10% palladium-on-charcoal are introduced into a solution of 387 mg (2.1 mmol) of (E)-3-(5-methyl-1H-imidazol-4-yl)acrylic acid hydrochloride in 8 ml of 1/1 tetrahydrofuran/water, purged beforehand with nitrogen. The reaction medium is placed under a hydrogen atmosphere and then stirred for 19 hours. After filtering through Celite and rinsing thoroughly with dichloromethane, the recovered filtrate is concentrated under vacuum. The crude residue is taken up in toluene and concentrated again in order to remove the residual water, and is then taken up in a mixture of heptane and diisopropyl ether (80/20) with stirring for about 2 hours. The desired product precipitates and is filtered off under vacuum. 326 mg (83%) of 3-(5-methyl-1H-imidazol-4-yl)propanoic acid hydrochloride are obtained in the form of a white solid.

reactant | (E)-3-(5-methyl-1H-imidazol-4-yl)acrylic acid hydrochloride | 2.1 mmol, 387 mg | Cl.CC1=C(N=CN1)/C=C/C(=O)O
catalyst | palladium-on-charcoal | 60 mg | [Pd] | Pd
solvent | tetrahydrofuran water | O1CCCC1.O
product | 3-(5-methyl-1H-imidazol-4-yl)propanoic acid hydrochloride | 326 mg, 83% | Cl.CC1=C(N=CN1)CCC(=O)O | InChI=1S/C7H10N2O2.ClH/c1-5-6(9-4-8-5)2-3-7(10)11;/h4H,2-3H2,1H3,(H,8,9)(H,10,11);1H
